Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
iodine
 
Attending: ___.
 
Chief Complaint:
Dyspnea, chest pain, abdominal pain
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Ms. ___ is an ___ with history of COPD, severe
gastritis, newly-diagnosed DM, and recurrent hospitalizations 
for
PNA and bronchitis who p/w acute onset L abdominal pain, chest
pain, and dyspnea.

History collected from patient, her granddaughter, and daughter.
Per granddaughter report, the patient woke up on ___ with chest
pain with associated shortness of breath for 1 hour. The patient
cannot describe the chest pain as she does not remember it. By
the time EMS arrived, the pain resolved. The pain resolved on 
its
own. EMS noted the patient did not have any complaints when they
arrived but the abdomen was tender to palpation on exam. SBP
reportedly in ___. 

Of note, patient presented to ED on ___ w/ intermittent RUQ
pain unresponsive to narcotics.  Labs, CT ABD unremarkable.
Etiology thought to be PUD or gastritis. D/C on famotidine 40mg,
Maalox, oxycodone 5mg. Advised to follow-up with PCP.  Her 
severe
abdominal pain was still present today on arrival to the ED,
which the daughter reports started after eating on ___ and 
has
persisted since.  She was noted to have a history of severe
gastritis, as well as anorexia and weight loss per ED history. 
The abdominal pain is resolved now. 

Per patient's daughter on the floor, her gastritis has been
severe and constant for many years and was worked up with a EGD 
___
years ago which was normal.  She notes that her gastritis may
have gotten worse recently, but it is hard to say.  Her family 
is
concerned for anorexia, noting that the patient eats small
amounts of food probably in the fear of abdominal pain results
from eating too much, however notes no weight loss over the past
few years.

In the ED, initial vitals: 97.4 76 105/58 18 94% RA

- Exam notable for: NAD. Lungs CTAB. RRR. Abdomen non-tender,
non-distended. No edema.

- Labs notable for: D-dimer ___, ___ 12.3, PTT 143.2, INR 1.1,
Trops < 0.01, ProBNP 118, negative UA.

- Studies notable for: CXR w/ no acute cardiopulmonary process.
ECG w/ NSR. Stool guaiac negative.  V/Q scan ordered given
allergy to iodinated contrast.

- Patient given: NS, Hep gtt, Levothyroxine 25mcg, Pantoprazole,
Sucralfate, Simethicone, Loratidine, Fluticasone-Salmeterol

Upon arrival to the floor, the patient reports that she is
asymptomatic.  She is not currently having chest or abdominal
pain.  She denies dyspepsia at the moment, as well as nausea,
vomiting, and changes in bowel movements or urination.  She is
not short of breath.  She denies fever and chills.  She denies
lower extremity pain or swelling.  She is concerned about
returning to ___ on ___.

REVIEW OF SYSTEMS:
General: no fevers, sweats.
Eyes: no vision changes.
Cardiac: no chest pain, palpitations, orthopnea.
Resp: no shortness of breath or cough.
GI: no current abdominal pain, nausea, vomiting, diarrhea.
GU: no dysuria, frequency, urgency.

 
Past Medical History:
COPD
Diabetes, diet-controlled
Hypercholesterolemia
Severe gastritis
Cholecystectomy
Hypothyroidism
Spinal stenosis
History of diverticulitis
History of recurrent hospitalizations for PNA/bronchitis

 
Social History:
___
Family History:
- Mother: stroke
- Father: MI, AAA
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
=========================
VITALS: T 98.0 BP 117/70 HR 90 RR 18 O2 97% RA
GEN: Alert, oriented, no acute distress, pleasant
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs,
gallops
RESP: Clear to auscultation bilaterally, no wheezes, rales,
rhonchi
ABD: Soft, non-distended, bowel sounds present, no
organomegaly, the epigastrium is moderately tender to palpation
which the patient attributes to bone pain, no rebound or 
guarding
EXT: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or
edema, no redness or swelling of the extremities, mild posterior
popliteal tenderness to palpation bilaterally the patient says
his bone pain
NEURO: CNII-XII intact, ___ strength upper/lower extremities,
grossly normal sensation, sensation and distal extremities
grossly intact.

DISCHARGE PHYSICAL EXAM:
========================
___ 0751 Temp: 97.9 PO BP:
109/66 HR: 83 RR: 16 O2 sat: 97% O2 delivery: RA 
General: well-developed elderly female ___, in no
acute distress
HEENT: no lymphadenopathy, mucous memories moist
Cardiovascular: S1-S2, regular rate and rhythm, no murmurs rubs
or gallops
Pulmonary: Good respiratory effort minimal bibasilar crackles
Abdomen: Bowel sounds present, soft, nondistended, minimal
tenderness in epigastric region
Extremities: No edema, warm and well-perfused, distal pulses 2+
 
Pertinent Results:
Labs on admission:
=====================
___ 04:30PM BLOOD WBC-5.0 RBC-3.19* Hgb-10.5* Hct-32.7* 
MCV-103* MCH-32.9* MCHC-32.1 RDW-13.3 RDWSD-50.6* Plt ___
___ 04:30PM BLOOD Neuts-52.9 ___ Monos-8.8 Eos-2.0 
Baso-0.4 Im ___ AbsNeut-2.63 AbsLymp-1.78 AbsMono-0.44 
AbsEos-0.10 AbsBaso-0.02
___ 06:30PM BLOOD ___ PTT-27.1 ___
___ 06:30PM BLOOD ___ 04:30PM BLOOD Glucose-86 UreaN-10 Creat-0.7 Na-143 
K-4.2 Cl-104 HCO3-28 AnGap-11
___ 04:30PM BLOOD ALT-13 AST-23 AlkPhos-54 TotBili-0.4
___ 04:30PM BLOOD Lipase-21
___ 04:30PM BLOOD cTropnT-<0.01
___ 04:30PM BLOOD proBNP-118
___ 04:30PM BLOOD Albumin-3.9
___ 09:28AM BLOOD Calcium-9.3 Phos-4.1 Mg-2.0

Labs on discharge:
=====================
___ 06:16AM BLOOD WBC-3.9* RBC-3.35* Hgb-11.2 Hct-34.5 
MCV-103* MCH-33.4* MCHC-32.5 RDW-13.2 RDWSD-49.7* Plt ___
___ 06:16AM BLOOD ___ PTT-26.9 ___
___ 06:16AM BLOOD D-Dimer-1311*
___ 06:16AM BLOOD Glucose-84 UreaN-10 Creat-0.6 Na-143 
K-4.0 Cl-105 HCO3-26 AnGap-12
___ 06:16AM BLOOD Calcium-8.9 Phos-3.3 Mg-2.0

Microbiology:
=====================
___ 2:55 pm URINE

                            **FINAL REPORT ___

   URINE CULTURE (Final ___:    < 10,000 CFU/mL. 

Reports:
=====================
___: CT abdomen and pelvis without contrast
1. No evidence of radiopaque stones in the common bile duct or 
bilateral 
kidneys. 
2. 3.6 cm cystic lesion in the left adnexa.  Nonemergent pelvic 
ultrasound is 
recommended. 
3. Colonic diverticulosis without evidence of diverticulitis. 
4. Incidental 6 mm left lower lobe nodule. 

___: PELVIS U.S., TRANSVAGINAL
1. Left ovarian cyst measuring up to 3.2 cm, for which clinical 
follow-up and repeat pelvic ultrasound in ___ year is recommended. 
The left ovary otherwise demonstrates normal vascularity. 
2. Nonvisualization of the right ovary. 
3. Heterogeneous appearance of the uterus secondary to 
calcifications, better 
evaluated on same day CT. 

___: CHEST (PA & LAT)
No acute cardiopulmonary process.

___: EKG
NSR

___: VQ Scan
Findings consistent with very low likelihood for acute 
pulmonary thromboembolism. 

___: BILAT LOWER EXT VEINS
No evidence of deep venous thrombosis in the right or left lower 
extremity 
veins. 

 
Brief Hospital Course:
Brief hospital summary:
=========================
This is an ___ woman with a past medical history of 
severe gastritis, COPD, newly diagnosed diabetes mellitus and 
recurrent hospitalizations for pneumonia and bronchitis, who 
presented to the hospital with acute onset of left-sided 
abdominal pain, chest pain, dyspnea. Of note she was seen at 
___ on ___ for right upper quadrant pain and was discharged 
with symptomatic antacid management and oxycodone. She was found 
to have an elevated d-dimer on admission however bilateral lower 
extremity Dopplers and a VQ scan were negative for DVT/PE. She 
was recommended to have an outpatient EGD to work-up because of 
her severe gastritis and potentially any occult malignancy being 
the cause of her elevated d-dimer. 

Transitional issues:
=======================
[ ] Please schedule an esophagogastroduodenoscopy (EGD) with 
your primary doctor in ___
[ ] Incidental 6mm nodule seen in left lower lobe. Chest CT in 
___ months would be recommended for follow-up of the incidental 
left lower lobe nodule. 
[ ] Left ovarian cyst measuring up to 3.2 cm, for which clinical 
follow-up and repeat pelvic ultrasound in ___ year is recommended.

Acute/active issues:
=======================
#Elevated d-dimer
Found during work-up for now resolved chest pain and dyspnea. 
There was initially concern for DVT/PE so she was started on 
heparin gtt and she underwent lower extremity Dopplers which 
were negative for DVT. Given her severe contrast allergy, she 
underwent a VQ scan which demonstrate a low probability of PE. 
Her anticoagulation was stopped after this. Other considerations 
such as myocardial infarction, stroke, acute limb ischemia, DIC 
were all unlikely in this clinical picture. Atrial fibrillation 
was also considered as a cause of her elevated d-dimer, however 
she remained in sinus rhythm throughout her hospital stay. There 
is concern that her elevated d-dimer could be the result of an 
occult malignancy as well.

#Severe gastritis
Patient has long-standing history of gastritis. She notes that 
she eats multiple small meals throughout the day, and feels that 
her pain is actually improved upon eating. She reportedly had an 
EGD ___ years ago in ___ which was unremarkable. She 
continued on her home regimen of pantoprazole, ranitidine, 
sucralfate, simethicone.

#Chest pain
The initial concern was that she had an acute process such as 
MI, PE, pneumonia or pneumothorax contributing to her symptoms 
however these were ruled out. Though this chest pain was 
subjectively different from her usual dyspepsia pain it is most 
likely that dyspepsia was the cause of her symptoms.

Chronic/stable problems:
==========================
#COPD
Patient is on Brio Ellipta at home, and she was continued on the 
appropriate formulary alternative while in the hospital. She 
continued on montelukast.
#Diabetes, diet-controlled
She remained on a diabetic diet
#Hypothyroidism
Continued on Synthroid

#CODE STATUS: Full code presumed
#Healthcare proxy/emergency contact: ___ (granddaughter) 
___
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Sucralfate 1 gm PO TID 
2. Levothyroxine Sodium 25 mcg PO DAILY 
3. Pantoprazole 40 mg PO Q24H 
4. Simethicone 80 mg PO TID 
5. Montelukast 10 mg PO QHS 
6. BusPIRone 10 mg PO QHS 
7. Breo Ellipta (fluticasone furoate-vilanterol) 100-25 mcg/dose 
inhalation QHS 
8. Ranitidine 300 mg PO QHS 
9. Loratadine 10 mg PO DAILY 

 
Discharge Medications:
1.  Breo Ellipta (fluticasone furoate-vilanterol) 100-25 
mcg/dose inhalation QHS  
2.  BusPIRone 10 mg PO QHS  
3.  Levothyroxine Sodium 25 mcg PO DAILY  
4.  Loratadine 10 mg PO DAILY  
5.  Montelukast 10 mg PO QHS  
6.  Pantoprazole 40 mg PO Q24H  
7.  Ranitidine 300 mg PO QHS  
8.  Simethicone 80 mg PO TID  
9.  Sucralfate 1 gm PO TID  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary diagnoses: 
==================
Elevated d-dimer
Severe gastritis
Chest pain

Secondary Diagnoses:
====================
COPD
Diabetes type II
Hypothyroidism

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,
It was a pleasure taking care of you at ___!

Why was admitted to the hospital?
======================================
You were admitted to the hospital because you were complaining 
of chest pain shortness of breath and abdominal pain, and a 
blood test called a d-dimer was elevated.

What happened to me while I was in the hospital?
=================================================
You were initially started on a blood thinner because we were 
concerned that you had a clot in your legs or your lungs however 
you had a test called a VQ scan of the lungs which did not show 
any one clots, and he also had ultrasounds of the legs which did 
not show any clots so the blood thinner was stopped.  We 
considered doing an upper endoscopy to potentially evaluate the 
cause of your abdominal pain and elevated d-dimer however we 
decided that it was okay for you to follow-up with your doctors 
in ___ to have this test done.

What should I do when I leave the hospital?
============================================
–Please continue to take all your medications as prescribed
-Please follow-up with your doctor in ___ to discuss 
setting up an EGD (upper endoscopy) as an outpatient.

It was a pleasure to be involved in your care, we wish you all 
the best!

Sincerely,
Your ___ care team!
 
Followup Instructions:
___